US06268391B1
A mixture of 200 mg (1.35 mmol) of 5-amino 1,3-dihydro-indol-2-one in 6 ml of acetic anhydride was refluxed for 30 minutes. The reaction mixture was poured onto 50 g of crushed ice. The mixture was stirred well and the solid was collected by vacuum filtration. The solid was washed with 200 ml of H2O and air dried to yield N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide (119 mg, 46%): 1H NMR (DMSO-d6): δ1.97 (s, 3H), 3.41 (s, 2H), 6.68 (d, J=8.4 Hz, 1H), ), 7.26 (dd, J1=2 Hz, J2=8.4 Hz, 1H), 7.46 (d, J=2 Hz, 1H), 9.73 (s, 1H). 10.23 (s, 1H),

reactant | 5-amino 1,3-dihydro-indol-2-one | 1.35 mmol, 200 mg | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
reactant | acetic anhydride | 6 ml | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-acetamide | 119 mg, 46% | O=C1NC2=CC=C(C=C2C1)NC(C)=O | C10H10N2O2
